* sENSITIVITY ANALYSIS PROBES
* jIM MEECH FEB 2006
.subckt v_probe INPUT+ INPUT-
B1 $G_Vnominal 0 V=if({run}==0,V(INPUT+)-V(INPUT-),0V)
B2 $G_Test_NET 0 V=V(INPUT+)-V(INPUT-)  
.ends v_probe
.subckt I_probe INPUT+ INPUT-
B1 $G_Vnominal 0 V=if({run}==0,I(V1)*1R,0V)
V1 INPUT+ INPUT- 0V
B2 $G_Test_NET 0 V=I(V1)*1R  
.ends I_probe
